US05374772
A mixture of 1.5 g (3 mmol) of 3-hydroxy-5-(octadecyloxy) benzoic acid phenylmethyl ester, 1.6 g (3.4 mmol) of 1-(6-bromo-hexyl)-2,3-bis(phenylmethoxy)benzene [M. Carson, R.-J. Han and R. A. LeMahieu, U.S. Pat. No. 5,025,036 (1991)], 0.45 g (3 mmol) of potassium iodide and 0.84 g (6 mmol) of potassium carbonate in 40 ml of acetone and 10 ml of DMF was stirred at reflux for 47 hours. The solvents were removed at reduced pressure and the residue was purified by HPLC using 5% ethyl acetate-hexane to give 2.0 g (77% yield) of 3-[[6-[2,3-bis(phenylmethoxy)phenyl]hexyl]oxy]-5-(octadecyloxy)benzoic acid phenylmethyl ester as an oil. The nmr spectrum served to confirm the structure.

reactant | 3-hydroxy-5-(octadecyloxy) benzoic acid phenylmethyl ester | 3 mmol, 1.5 g | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C32H48O4
reactant | 1-(6-bromo-hexyl)-2,3-bis(phenylmethoxy)benzene | 3.4 mmol, 1.6 g | BrCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29BrO2
reactant | potassium iodide | 3 mmol, 0.45 g | [I-].[K+]
reactant | potassium carbonate | 6 mmol, 0.84 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-[[6-[2,3-bis(phenylmethoxy)phenyl]hexyl]oxy]-5-(octadecyloxy)benzoic acid phenylmethyl ester | 2.0 g, 77% yield | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C58H76O6
